Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old woman with extensive cardiac history 
including multivessel vessel CAD S/P stenting of the LAD with 
in-stent restenosis and stenting of the CX, S/P CABG in ___ with known occluded SVG-D1 with patent LIMA-LAD and SVG-OM 
in ___, poorly controlled type 2 diabetes mellitus, 
hypertension, COPD, GERD, now presenting with new chest pain.
  At 5 pm on the day of presentation, she was resting at home 
when she had onset of severe stabbing pain left of the sternum. 
This pain radiated across her chest but not to the arm or jaw. 
She took 1 nitroglycerin, which improved her pain slightly. She 
reports that the pain came in waves lasting 5 minutes. She also 
endorsed left chest wall tenderness. She did not remember when 
she last had chest pain prior to this. The pain was not clearly 
exertional. The sharp pains occurred when she was lying down. 
She says the area is very tender. Lying on the left side causes 
pain. She did have nausea the past 3 mornings which resolved. 
She denied vomiting, diaphoresis, fevers or chills. She had an 
episode of diarrhea yesterday, but no abdominal pain. She 
already took a full dose aspirin on the day of presentation.  
  In the ED, initial vitals were: T 98.0, HR 88, BP 127/65, RR 
16, SaO2 100% on RA. FSBG 302->94. Labs notable for Troponin-T < 
0.01, CK-MB < 1, D-Dimer 268, Cr 1.2, Mg 1.4. Normal LFTs; CBC, 
Chem 7, coags WNL. CXR showed no acute cardiopulmonary 
abnormality. Bedside echocardiogram showed no substantial 
pericardial effusion or tamponade. Patient was given fluticasone 
propionate inhaled, OxyCODONE--Acetaminophen (5mg-325mg), 
Magnesium Sulfate 2 gm IV. 

On arrival to the cardiology ward, the patient reported that her 
pain was still there but it felt "slow"  ___ but at its worse 
was ___. The area was tender. She had no breathing complaints. 
She felt a little congested this evening when the pain started.
 
Past Medical History:
-COPD
-CAD s/p CABG and stenting, as above
-Depression  
-DM  
-GERD  
-Hypertension
-Migraines
-Chronic shoulder pain on narcotics
-OSA
-Peripheral neuropathy
-Restless leg
 
Social History:
___
Family History:
Patient was ward of the ___, doesn't know full details of 
family history. Mother with possible alcohol abuse. Father 
deceased at ___ from Hodgkin's Disease per old records.
 
Physical Exam:
On admission
General: Obese middle aged ___ woman, alert, oriented, in no 
acute distress
Vital Signs: T 98.7, BP 98/65, HR 79, RR 18, SaO2 95% on RA
Weight: 89 kg
HEENT: Sclera anicteric, mucous membranes moist, oropharynx 
clear
NECK: difficult to appreciate JVP
CV: Regular rate and rhythm, normal S1 + S2; no murmurs, rubs, 
gallops
Chest: Tenderness to palpation of the left anterior chest wall
Lungs: Clear to auscultation bilaterally--no wheezes, rales, 
rhonchi
Abdomen: Soft, non-tender, non-distended, obese
GU: No Foley
Ext: Warm, well perfused; no clubbing, cyanosis or edema

Exam unchanged at discharge, left chest wall tender with 
palpation with pain after change in position
 
Pertinent Results:
___ 10:31PM BLOOD WBC-9.4 RBC-3.51* Hgb-12.0 Hct-34.3 
MCV-98 MCH-34.2* MCHC-35.0 RDW-11.8 RDWSD-42.3 Plt ___

___ 10:31PM BLOOD Glucose-105* UreaN-21* Creat-1.2* Na-137 
K-3.4 Cl-97 HCO3-24 AnGap-19
___ 10:31PM BLOOD ALT-15 AST-16 CK(CPK)-39 AlkPhos-53 
TotBili-0.3
___ 10:31PM BLOOD Albumin-3.9 Calcium-9.1 Phos-4.4 Mg-1.4*

___ 10:57PM BLOOD D-Dimer-268
___ 10:31PM BLOOD CK-MB-1  cTropnT-<0.01
___ 06:00AM BLOOD CK-MB-<1 cTropnT-<0.01

___ 06:00AM BLOOD WBC-9.3 RBC-3.44* Hgb-11.8 Hct-33.1* 
MCV-96 MCH-34.3* MCHC-35.6 RDW-11.9 RDWSD-41.3 Plt ___
___ 06:00AM BLOOD Glucose-147* UreaN-21* Creat-1.2* Na-139 
K-3.0* Cl-99 HCO3-24 AnGap-19
___ 06:00AM BLOOD Calcium-8.7 Phos-4.4 Mg-2.0

ECG ___ 8:33:29 ___
Baseline artifact. Sinus rhythm. Borderline P-R interval 
prolongation. Prominent voltage in leads I and aVL but does not 
meet criteria for left ventricular hypertrophy. There are marked 
ST segment depressions and T wave inversions in leads I, II, aVL 
and apical lateral leads. Compared to the previous tracing of 
___ the rate then was faster. ST-T wave abnormalities were 
similar. Consider left ventricular hypertrophy as before. 
Clinical correlation is suggested.

CXR ___
Patient is status post median sternotomy and CABG. Heart size is 
normal. Mediastinal and hilar contours are unchanged. Pulmonary 
vasculature is normal. No focal consolidation, pleural effusion 
or pneumothorax is seen. No acute osseous abnormality is 
detected.
IMPRESSION: No acute cardiopulmonary abnormality.

Dipyridamole-MIBI Stress test ___
___ yp woman with HL, HTN, DM, PVD and diastolic CHF; s/p MI and 
multiple PCIs f/b CABG x 3 in ___ with known SVG-OM occlusion 
was referred to evaluate an atypical chest discomfort. The 
patient was administered 0.142 mg/kg/min of Persantine over 4 
minutes. Prior to the procedure the patient reported an isolated 
left-sided chest discomfort that had been present since 
admission and was tender to mild palpation; ___. This 
discomfort did not change in intensity during the procedure. In 
the presence of diffuse ST-T wave changes, no additional ECG 
changes were noted during the procedure. The hemodynamic 
response to the Persantine infusion was appropriate. 
Post-infusion, the patient was administered 125 mg Aminophylline 
IV.
IMPRESSION: Non-anginal type symptoms with no additional ST 
segment changes from baseline.
Imaging:
  Left ventricular cavity size is normal.
  Rest and stress perfusion images reveal uniform tracer uptake 
throughout the left ventricular myocardium.  The previously 
noted perfusion defect involving the inferolateral wall has 
resolved.
  Gated images reveal normal wall motion. The calculated left 
ventricular ejection fraction is 64%.
IMPRESSION: Normal myocardial perfusion study. Interval 
normalization of prior LCx territory perfusion defect.
 
Brief Hospital Course:
This is a ___ with type 2 diabetes mellitus on insulin, CAD s/p 
MI, S/P multiple PCIs and CABG ___ (LIMA-LAD, SVG-OM1; also 
SVG-D1 known occluded ___ with chronic stable angina 
admitted with atypical, stabbing, focal chest pain.

# Chest pain: Initially the patient was started on a heparin 
drip and other ACS protocol medications. Her home losartan and 
furosemide were held due to low blood pressures. Suspicion for 
cardiac etiology of chest pain was ultimately not high. She had 
an isolated ongoing ___ left-sided chest discomfort exacerbated 
by changes in position and with chest wall tenderness to light 
palpation. Despite prolonged chest pain, troponin-T and CK-MB 
negative x2 and EKGs mostly unchanged from prior. Given known 
H/O CAD, a vasodilator nuclear stress test was performed and was 
reassuring. Her discomfort did not change in intensity during 
the stress test drug infusion. In the presence of diffuse ST-T 
wave changes, no additional ECG changes were noted during the 
procedure. The hemodynamic response to the Persantine infusion 
was appropriate. Her perfusion study was normal with interval 
normalization of prior LCx territory perfusion defect. Given the 
stabbing quality and tenderness to palpation of the area of 
discomfort, her symptoms were most likely related to 
costochondritis or other musculoskeletal causes. She was started 
on aspirin 650 mg q6h with plans to trial for 2 days and 
continue through the week if symptoms improve.

Chronic medical problems:
# Diabetes mellitus: Continued levemir and was switched to a 
sliding scale of Humalog.
# Hypertension: Losartan was held as above due to hypotension 
and once daily isosorbide mononitrate was switched temporarily 
to isosorbide dinitrate TID. 
# For her hyperlipidemia, COPD and GERD, her home regimens were 
continued.  

TRANSITIONAL ISSUES:
- Patient had low blood pressures initially (88-92 systolic). 
Would benefit from close monitoring and titration of blood 
pressure medications as an outpatient
- She was hypokalemic (K 3.0) during admission (with ___ and 
furosemide already held). Please recheck CHEM-10 at ___ ___ 
visit on ___ to determine whether she might benefit from K 
supplementation
- Cr elevated to 1.2 on discharge (up from most recent 1.1.1). 
Please recheck at ___ office on ___
- Full code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN pain 
2. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN pain 
3. Metoprolol Succinate XL 250 mg PO DAILY 
4. Levemir Flexpen (insulin detemir) 90 units subcutaneous in 
the evening 
5. albuterol sulfate 90 mcg/actuation inhalation q4hrs wheezing 
6. Vitamin D 1000 UNIT PO DAILY 
7. TraZODone 100 mg PO HS 
8. Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
9. Aspirin 325 mg PO DAILY 
10. Atorvastatin 80 mg PO HS 
11. Fluticasone Propionate 110mcg 2 PUFF IH BID 
12. Pantoprazole 40 mg PO Q12H 
13. Ropinirole 0.5 mg PO QPM 
14. HumaLOG KwikPen (insulin lispro) 0   SUBCUTANEOUS AS 
DIRECTED 
15. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheeze 
16. Methocarbamol 500 mg PO TID:PRN muscle pain 
17. Losartan Potassium 25 mg PO DAILY 
18. Furosemide 20 mg PO DAILY 
19. diclofenac sodium 1 % topical TID:PRN pain
 
Discharge Medications:
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheeze 
2. Atorvastatin 80 mg PO HS 
3. Fluticasone Propionate 110mcg 2 PUFF IH BID 
4. Methocarbamol 500 mg PO TID:PRN muscle pain 
5. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN pain 
6. Pantoprazole 40 mg PO Q12H 
7. Ropinirole 0.5 mg PO QPM 
8. TraZODone 100 mg PO HS 
9. Vitamin D 1000 UNIT PO DAILY 
10. albuterol sulfate 90 mcg/actuation INHALATION Q4HRS wheezing
11. diclofenac sodium 1 % topical TID:PRN pain 
12. Furosemide 20 mg PO DAILY 
13. Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
14. Metoprolol Succinate XL 250 mg PO DAILY 
15. HumaLOG KwikPen (insulin lispro) 0   SUBCUTANEOUS AS 
DIRECTED 
16. Levemir Flexpen (insulin detemir) 90 units subcutaneous in 
the evening 
17. Losartan Potassium 25 mg PO DAILY 
18. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN pain 
19. Aspirin 650 mg PO Q6H 
RX *aspirin 650 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*28 Tablet Refills:*0
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- Chest wall pain atypical for angina
- Musculoskeletal pain
- Known native coronary artery and bypass graft disease
- Type 2 Diabetes mellitus, with
- Chronic kidney disease, stage 3
- Acute kidney injury
- Chronic obstructive pulmonary disease
- Hypertension
- Hypotension
- Hypokalemia
- Chronic shoulder pain on narcotics
- Obstructive sleep apnea
- Gastroseophageal reflux disease
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
It was our pleasure participating in your care here at ___. 
You were admitted with severe chest pain. You underwent a stress 
test that showed the pain is unlikely from a big blockage in the 
arteries that feed your heart. Your lab work also did not 
suggest injury to the heart.

The pain you are experiencing is most likely musculoskeletal and 
should hopefully improve with supportive measures such as 
Tylenol (maximum 3 grams per day) and time. You will also be 
prescribed high dose aspirin (650mg). Please try this for two 
days and if there is improvement in your symptoms continue it 
for the week. 

If your symptoms worsen, you develop shortness of breath or any 
other concerning symptom, please let your doctor know right 
away.

Again, it was our pleasure participating in your care.

We wish you the very ___,
Your ___ Cardiology Team
 
Followup Instructions:
___